US04559334
To a solution of DL-1-ethoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (1 g) in a mixture of ethyl acetate (50 ml) and ethanol (2 ml) was added concentrated hydrochloric acid (0.3 ml) under ice-cooling, and the mixture was stirred for 10 minutes at 0°-3° C. To the solution was added diisopropyl ether (50 ml), and the resulting precipitate was collected by filtration, washed with ethyl acetate and air-dried to give DL-1-ethoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (0.8 g).

reactant | 1-ethoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C)OC(=O)OCC)C1=O)=NO | C19H21N5O8S2
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-ethoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate hydrochloride | 0.8 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C)OC(=O)OCC)C1=O)=NO | InChI=1S/C19H21N5O8S2.ClH/c1-4-9-6-33-16-12(22-14(25)11(23-29)10-7-34-18(20)21-10)15(26)24(16)13(9)17(27)31-8(3)32-19(28)30-5-2;/h4,7-8,12,16,29H,1,5-6H2,2-3H3,(H2,20,21)(H,22,25);1H/t8?,12?,16-;/m1./s1
